US07307098B2
(1) Production of tert-butyl-hexadecane-15-ynyloxy-dimethylsilane (13a)
The solution of (14-bromo-tetradecyloxy)-tert-butyl-dimethylsilane (8.9 g, 21.4 mmol, 1 eq) in DMSO (10 mL) was added dropwise to the solution of N,N-diethylethane-1,2-diamine lithium acetylide (3.1 g, 33.2 mmol, 1.5 eq) in DMSO (15 mL) at 0° C. This solution was stirred at room temperature for 6 hours, poured into saturated aqueous solution of potassium chloride (100 mL), and extracted three times with hexane (100 mL). The extract was washed with aqueous solution of sodium chloride, dried over magnesium sulfate, and concentrated. The resulting concentrate was subjected to silica gel flush column chromatography (eluate: hexane-CH2Cl2=80-20) to obtain the colorless liquid of the title compound (6.12 g, yield 81%).

reactant | (14-bromo-tetradecyloxy)-tert-butyl-dimethylsilane | 21.4 mmol, 8.9 g, 1 eq | BrCCCCCCCCCCCCCCO[Si](C)(C)C(C)(C)C | C20H43BrOSi
reactant | N,N-diethylethane-1,2-diamine lithium acetylide | 33.2 mmol, 3.1 g, 1.5 eq | [C-]#[C-].[Li+].C(C)N(CCN)CC.[Li+]
reactant | potassium chloride | 100 mL | [Cl-].[K+]
solvent | DMSO | 10 mL | CS(=O)C | C2H6OS
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
product | tert-butyl-hexadecane-15-ynyloxy-dimethylsilane | 6.12 g, yield 81% | C(C)(C)(C)[Si](C)(C)OCCCCCCCCCCCCCCC#C | C22H44OSi
